******************************************************************
*
* 		TDK Electronics
* 		PPD Business Group
* 		A-8530 Deutschlandsberg
* 		Siemensstraße 43
*
*		Andreas Lesch
*       	PPD CMRD INT
*		Tel  +43 (0) 676 8226 4991
*		Email andreas.lesch@tdk.com
*
*
******************************************************************
* Please read the hints in "Readme.txt".
******************************************************************
*
*
******************************************************************
************************ preliminary *****************************
******************************************************************
*
* Library TVS.sub
* Version 1.2 ( 02. February 2023)
*
*
*
******************************************************************
* Library for Linear Technologies LTspice
*
******************************************************************
*
*
*
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
*
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=11.6 Voff=11.4)
.model Before_snapback D(Is=5e-17 N=9.1 Rs=17 )
.model mainIV D(Is=5.6e-16 N=1.82 Rs=0.43 )
.model sbcmSW SW(Ron=0.001 Roff=180 Von=11.8 Voff=0)
.model cmSW SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2 D(Is=4.49e-15 N=3.62 Rs=0.27 )
*
.model snapback1SW_ULC102 SW(Ron=0.001 Roff=1e6 Von=4.8 Voff=4.6)
.model Before_snapback_ULC102 D(Is=1.5e-20 N=9.1 Rs=72)
.model mainIV_ULC102 D(Is=2.6e-16 N=1.82 Rs=0.43)
.model sbcmSW_ULC102 SW(Ron=0.001 Roff=318 Von=11.8 Voff=0)
.model cmSW_ULC102 SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2_ULC102 D(Is=4.49e-15 N=3.62 Rs=0.27)
*
*
*
*
.SUBCKT SD0201SL_ULC102 A1 A2 PARAMS: L1v=0.38n C1v=0.55p R1v=24.2
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N010 A2 Positive A2 1
V1 Snap_A Snap_B 10.9
D3 A2 Snap_B idealD
C2 snap_c A2 55p
R3 snap_c A2 1e6
D4 Test N012 idealD
V2 N012 N016 100
R4 N016 A2 50
D5 N014 Test idealD
R5 N014 A2 50
R6 Snap_C_LP snap_c 11
C3 Snap_C_LP A2 10p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC102
F1 A2 Test V3 -1.2
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N010 1K
D6 N024 A2 mainIV_ULC102
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_ULC102
G2 A2 snap_c A2 Snap_B -1
F2 A2 N027 V5 +1
R14 N027 A2 1e100
V5 B N021 0
S2 N022 N021 SBCM_C A2 sbcmSW_ULC102
V6 SBCM_C N027 2.6
C4 N027 A2 700p
D7 N027 N033 idealD
D8 N030 N027 idealD
R15 N037 A2 50
R16 N030 A2 50
F3 A2 N028 V8 +1
R17 N028 A2 1e100
V8 N022 N023 0
S3 N024 N023 CM_C A2 cmSW_ULC102
V9 CM_C N028 3.1
C5 N028 A2 30n
D9 N028 N034 idealD
D10 P001 N028 idealD
R18 N038 A2 50
R19 P001 A2 50
D11 N024 A2 mainIV2_ULC102
V7 N033 N037 100
V10 N034 N038 100
R20 N027 A2 1e6
R21 N028 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC102
E3 N009 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 10.9
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 55p
R25 snap_c_N A2 1e6
D15 N008 N011 idealD
V12 N011 N015 100
R26 N015 A2 50
D16 N013 N008 idealD
R27 N013 A2 50
R28 Snap_C_LP_N snap_c_N 11
C8 Snap_C_LP_N A2 10p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC102
F4 A2 N008 V13 +1.2
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N009 1K
D17 A2 N020 mainIV_ULC102
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N025 V14 -1
R35 N025 A2 1e100
V14 B_N N017 0
S5 N018 N017 SBCM_C_N A2 sbcmSW_ULC102
V15 SBCM_C_N N025 2.65
C9 N025 A2 700p
D18 N025 N031 idealD
D19 N029 N025 idealD
R36 N035 A2 50
R37 N029 A2 50
F6 A2 N026 V16 -1
R38 N026 A2 1e100
V16 N018 N019 0
S6 N020 N019 CM_C_N A2 cmSW_ULC102
V17 CM_C_N N026 3.1
C10 N026 A2 30n
D20 N026 N032 idealD
D21 P002 N026 idealD
R39 N036 A2 50
R40 P002 A2 50
D22 A2 N020 mainIV2_ULC102
V18 N031 N035 100
V19 N032 N036 100
R41 N025 A2 1e6
R42 N026 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*